US07723336B2
N6-(cis-4-aminocyclohexyl)-N8-[4-(ethyloxy)phenyl]-7-methylimidazo[1,2-b]pyridazine-6,8-diamine
To 6-chloro-N-(4-ethoxyphenyl)-7-methylimidazo[1,2-b]pyridazin-8-amine (40 mg, 0.14 mmol) from Example III(1), step 1d was added cis-1,4-diaminocyclohexane (250 mg, 2.19 mmol). The mixture was allowed to heat at 165° C. for 48 hrs. The reaction mixture then cooled, diluted with methanol and purified by preparative HPLC. The eluent was then concentrated in vacuo, diluted with methanol (2 mL), purified and neutralized by passing through a 500 mg SCX (Cation exchange column). The eluent was concentrated to give 6.0 mg (11.3%) of the titled compound. 1H NMR (500 MHz, MeOH) δ ppm 7.65 (1H, s), 7.25 (1H, s), 6.85 (4 H, m), 3.95 (2H, d, J=7.2 Hz), 3.95 (1H, m), 3.05 (1H, m), 1.95 (2H, m), 1.85 (3H, s), 1.80 (4H, m), 1.65 (2H, m), 1.35 (3H, t, J=7.2 Hz). LC/MS m/e 381 (M+1). HPLC, 1.91 min. Waters Sunfire C18 4.6×50.0%-100% B. B: 90% MeOH, 10% H2O, 0.1% TFA. A: 10% MeOH, 90% H2O, 0.1% TFA, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min.

reactant | 6-chloro-N-(4-ethoxyphenyl)-7-methylimidazo[1,2-b]pyridazin-8-amine | 0.14 mmol, 40 mg | ClC=1C(=C(C=2N(N1)C=CN2)NC2=CC=C(C=C2)OCC)C | C15H15ClN4O
reactant | cis-1,4-diaminocyclohexane | 2.19 mmol, 250 mg | N[C@@H]1CC[C@@H](CC1)N | C6H14N2
solvent | methanol | CO | CH4O
product | N6-(cis-4-aminocyclohexyl)-N8-[4-(ethyloxy)phenyl]-7-methylimidazo[1,2-b]pyridazine-6,8-diamine | 6.0 mg, 11.3% | N[C@H]1CC[C@H](CC1)NC=1C(=C(C=2N(N1)C=CN2)NC2=CC=C(C=C2)OCC)C | C21H28N6O
